US07244729B2
Step 25.2: [6-(3-Chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl) -amiine
A mixture of 688 mg (2 mmol) {3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-phenyl}-methanol and 578 mg (2.2 mmol) triphenylphosphine in 60 ml dichloromethane is treated at 0° C. with 293 mg (2.2 mmol) N-chlorosuccinimide. After stirring 1 h at 0° C. all the material has gone into solution. The solvent is evaporated and the title compound purified with flash chromatography using dichloromethane/ethanol 95:5 (the title compound is contaminated with a small amount of triphenylphosphine oxide);

reactant | {3-[4-((R)-1-phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-phenyl}-methanol | 2 mmol, 688 mg | C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)NC(=C2)C=2C=C(C=CC2)CO | C21H20N4O
reactant | triphenylphosphine | 2.2 mmol, 578 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 2.2 mmol, 293 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | [6-(3-Chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-((R)-1-phenyl-ethyl) -amiine | ClCC=1C=C(C=CC1)C1=CC2=C(N=CN=C2N(C2=CC=CC=C2)[C@H](C)C2=CC=CC=C2)N1 | C27H23ClN4
